* testbench.spice -- `klt pex` testbench body for the comparator sub-block
* (issue #112), reusing sim/comparator-decision/run.py's own pick-off
* methodology: a single reset(CLK=0)->evaluate(CLK=VDD) transient edge,
* Vindiff applied as a DC differential on VINP/VINN, decision statistic
* v(OUTP)/v(OUTN) sampled PICKOFF_NS=1.2ns after the evaluate edge starts
* (RESET_NS=5ns + RESET_TR_NS=0.1ns -> absolute pick-off time 6.3ns) -- see
* that file's `_pickoff_deck()` for the ORIGINAL PICKOFF_NS=0.3ns/5.4ns
* numbers this once reproduced.
*
* Re-derived for DR-004 Amendment A's extracted (parasitic-loaded) leg
* (issue #187): the original 0.3ns/5.4ns instant was calibrated against the
* pre-#175 topology and produced a sign-flipped extracted-side pick-off
* differential against this topology's real routing parasitics (negative for
* a positive applied Vindiff -- see `reports/20260906-101231-1250ff4/
* record.md`'s AC3). `layout/comparator/pex/regen_probe.py`'s reset->evaluate
* transient sweep (`reports/20260906-144802-eace0b6/record.md`) found the
* extracted leg's own regeneration onset is measurably delayed relative to
* the ideal schematic leg by the real parasitic R/C on DIP/DIN/OUTP/OUTN,
* and that its pick-off differential does not cross from the sign-flipped
* artifact region to a clean, correctly-signed, non-saturated response until
* ~1.0-1.2ns after the evaluate edge -- 1.2ns was chosen as the new instant
* (see that record's "Recommendation" section for the full derivation and a
* corner spot check at ss/-40C and ff/125C).
*
* Two corner points, swept together via `corners.supply_v` on the
* `vinp_v`/`vinn_v` params below (see pex_request.json):
*   - index 0: vinp_v=vinn_v=0.9V -- Vindiff=0. Both legs' *devices* are
*     identical on both the schematic DUT and (since `klt pex` extracts
*     this composed layout's real device instances, not a stochastically
*     mismatched draw) the extracted netlist too -- so a nonzero pick-off
*     differential at this point isolates the ROUTING/parasitic-driven
*     imbalance alone, with device mismatch structurally excluded from the
*     comparison.
*   - index 1: vinp_v=0.905V, vinn_v=0.895V -- Vindiff=+10mV, one of
*     run.py's own VINDIFF_GAIN_CAL_MV gain-calibration points, included so
*     the index-0 delta can be converted to an input-referred quantity via
*     the same zero-intercept-gain technique run.py's `offset` subcommand
*     uses, without re-deriving a new methodology for this issue.
*
* `.include`s the schematic-equivalent DUT (comparator_pex_reference.spice
* -- see that file's own header for why it exists as a separate,
* `.SUBCKT`-wrapped file rather than reusing comparator_core.spice
* directly). `klt pex` rewrites only that one line to point at its own
* freshly `--parasitics`-extracted netlist for the extracted-side leg; the
* schematic-side leg runs this file completely unmodified.
.param vdd_val=1.8

Vdd VDD 0 DC {vdd_val}
Vclk CLK 0 PULSE(0 {vdd_val} 5n 0.1n 0.1n 1.5n 16.6n)
* Vinp/Vinn's DC values are the `corners.supply_v` alter target below --
* ngspice's `alter <name>=<value>` command sets a named SOURCE's own DC
* value directly (case-insensitive device-name match); it does NOT resolve
* a `.param`-only indirection (verified empirically: keying
* `corners.supply_v` off a `.param` name here silently no-ops with a
* logged "no such device or model name" rather than failing the run, since
* `klt sim`'s failure classification does not (yet) treat an `alter`
* target-not-found line as its own diagnostic code -- see
* docs/cli/sim.md's "Corner axes"/`corners.supply_v`). So these are literal
* DC sources, not `.param`-substituted, and `pex_request.json`'s
* `supply_v` keys name them directly (`vinp`/`vinn`).
Vinp VINP 0 DC 0.9
Vinn VINN 0 DC 0.9

.include "comparator_pex_reference.spice"
Xdut CLK GND OUTN OUTP VDD VINN VINP gen_compose_0
